US04372953
20% Hydrochloric acid (150 ml) is added to methyl 4-(1-methyl-1,2,3,4-tetrazol-5-yl)thiobutyrate (17 g) and the mixture is refluxed for 2 hours. After cooling, the reaction mixture is diluted with water and extracted with chloroform. The chloroform solution is washed with saturated aqueous sodium chloride and dried over magnesium sulfate. Chloroform is distilled off to obtain 4-(1-methyl-1,2,3,4-tetrazol-5-yl)thiobutyric acid as colorless liquid, nD26 =1.5133

reactant | Hydrochloric acid | 150 ml | Cl | ClH
reactant | methyl 4-(1-methyl-1,2,3,4-tetrazol-5-yl)thiobutyrate | 17 g | CN1N=NN=C1CCCC(=S)OC | C7H12N4OS
solvent | water | O | H2O
product | 4-(1-methyl-1,2,3,4-tetrazol-5-yl)thiobutyric acid | CN1N=NN=C1CCCC(=S)O | C6H10N4OS
